US09034900B2
Step 4: 4-bromo-2-chloro-6-methylfuro[2,3-c]pyridin-7-one
A 0.2 M solution of 4-bromo-2-chlorofuro[2,3-c]pyridin-7-ol (143 mg, 0.6 mmol) and K2CO3 (200 mg, 1.45 mmol) in DMF stirred at 0° C. under an atmosphere of nitrogen was treated with MeI (99 mg, 0.7 mmol). The ice bath was removed; the mixture was stirred at rt overnight. The reaction mixture was treated water (15 mL) and was extracted with EtOAc (3×10 mL). The combined organic layers were washed with water (15 mL), brine (20 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel using a gradient of EtOAc (10 to 100%) in hexanes to afford the title compound (113 mg, 85%) as a white solid. LCMS (M+H)+=263.

reactant | 4-bromo-2-chlorofuro[2,3-c]pyridin-7-ol | 0.6 mmol, 143 mg | BrC1=C2C(=C(N=C1)O)OC(=C2)Cl | C7H3BrClNO2
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.7 mmol, 99 mg | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-6-methylfuro[2,3-c]pyridin-7-one | 113 mg, 85% | BrC=1C2=C(C(N(C1)C)=O)OC(=C2)Cl | C8H5BrClNO2
